US06953793B2
C. 1-(3-Hydroxy-propyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester.
A solution of LiBH4 (26 mg, 1.2 mmol) in THF (0.5 mL) was added to a 0° C. solution of 1-(2-methoxycarbonyl-ethyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (317 mg, 0.70 mmol) in THF (4.0 mL). The mixture was stirred for 5 min then additional LiBH4 (15 mg) was added and stirring continued for 17 h. The mixture was partitioned between EtOAc (80 mL) and saturated aqueous NaHCO3 (20 mL). The aqueous layer was extracted with EtOAc (2×20 mL). The combined extracts were dried over Na2SO4 and concentrated. Column chromatography (silica, 0-8% MeOH/CH2Cl2) afforded 268 mg (95%) of the title compound. HPLC (reverse phase conditions), tR=6.82 min. MS (electrospray): m/z calculated for C21H26F3N3O3 [M++Na] 448.18. found 448.10. 1H NMR (CDCl3, 400 MHz): 7.73 (br d, J=8.2 Hz, 2H), 7.65 (br s, 2H), 4.64 (br s, 2H), 4.21 (t, J=6.4 Hz, 2H), 3.76 (br s, 2H), 3.66 (t, J=5.7 Hz, 2H), 2.73 (br t, J=5.4 Hz 2H), 2.04 (q, J=6.1, 2H), 1.48 (s, 9H).

reactant | LiBH4 | 1.2 mmol, 26 mg | [Li+].[BH4-]
reactant | 1-(2-methoxycarbonyl-ethyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 0.70 mmol, 317 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC(=O)OC | C22H26F3N3O4
reactant | LiBH4 | 15 mg | [Li+].[BH4-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 1-(3-Hydroxy-propyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 268 mg, 95% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCO | C21H26F3N3O3
